US06124343
(RS)-[1-(4-Methoxybenzyl)-1H-tetrazol-5-yl]-(2-methylphenyl)methanol
A stirred solution of 1-(4-methoxybenzyl)tetrazole (7.04 g, Tetrahedron Letters, 1995, p1759-1762) in a mixture of dry tetrahydrofuran (120 ml) and N,N,N',N',-tetramethylethylenediamine (12 ml) under a nitrogen atmosphere at -85° C. was treated dropwise with n-butyl lithium (18 ml, 2.5 M solution in hexanes) over 10 minutes. After stirring at -85° C. for an additional 5 minutes a solution of o-tolualdehyde (4.45 g) in dry tetrahydrofuran (20 ml) was added dropwise over 10 minutes. The reaction mixture was stirred at -85° C. for 30 minutes, allowed to warm to room temperature, then quenched with saturated ammonium chloride solution (50 ml). The organic phase was separated and the aqueous phase extracted three times with ethyl acetate (100 ml). The combined organic phases were dried over magnesium sulphate and evaporated. The residue was purified by flash chromatography on silica eluting initially with a mixture of ethyl acetate and pentane (1:1, v/v) then with a mixture of ethyl acetate and pentane (66:34, v/v). Fractions homogenous in the required product were combined and evaporated affording the title compound (9.8 g) as a whlite solid, m.p. 90-92° C. [Elemental analysis:-C,65.91, H,5.9, N,18.1%. Calculated:-C,65.79, H,5.85, N,18.05%].

reactant | 1-(4-methoxybenzyl)tetrazole | 7.04 g | COC1=CC=C(CN2N=NN=C2)C=C1 | C9H10N4O
reactant | N,N,N',N',-tetramethylethylenediamine | 12 ml | CN(CCN(C)C)C | C6H16N2
reactant | n-butyl lithium | 2.5 M, 18 ml | C(CCC)[Li]
reactant | o-tolualdehyde | 4.45 g | C=1(C(=CC=CC1)C=O)C | C8H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
product | (RS)-[1-(4-Methoxybenzyl)-1H-tetrazol-5-yl]-(2-methylphenyl)methanol | 9.8 g | COC1=CC=C(CN2N=NN=C2C(O)C2=C(C=CC=C2)C)C=C1 | C17H18N4O2
